US04976773
The 4-nitrobenzenesulfonamide obtained (5.9 g) was dissolved in methanol (100 ml), and after an addition of conc. hydrochloric acid, reduced iron (4.2 g) was added and the mixture stirred at room temperature for 2 hours. After filtration, methanol was evaporated under a reduced pressure, the residue was made basic with an addition of 4N sodium hydroxide, and the mixture of the desired product and iron oxide precipitated was collected by filtration. The mixture was dissolved in acetone (200 ml), filtered to remove iron oxide, and the solvent was evaporated under a reduced pressure to obtain 4-aminobenzenesulfonamide (3.7 g) (m.p. 164° C.-165.5° C.).

reactant | 4-nitrobenzenesulfonamide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 4-aminobenzenesulfonamide | 3.7 g | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
